US07192950B2
3-{2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-N,N-dimethyl-propionamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 3-amino-N,N-dimethyl-propionamide.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 3-amino-N,N-dimethyl-propionamide | NCCC(=O)N(C)C | C5H12N2O
product | 3-{2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-2-phenyl-acetylamino}-N,N-dimethyl-propionamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)NCCC(=O)N(C)C)C3=CC=CC=C3)C=CC1OC | C34H43N3O6
